US08729074B2
N′-(2-Chloro-5-(7-methyl-6-(4-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide
N-(5-(6-bromo-7-methylimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide. To a 5 mL microwave tube was added N-(2-chloro-5-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)-N′,N′-dimethylsulfonamide (0.300 g, 0.830 mmol), 6-bromo-3-iodo-7-methylimidazo[1,2-a]pyridine (0.335 g, 0.995 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloride palladium(ii) (0.061 g, 0.083 mmol), sodium carbonate (1.037 mL, 2.074 mmol), and dioxane (3 mL). The resulting mixture was sealed and underwent microwave heating at 110° C. for 20 min. The solvent was removed. The residue was partitioned between pH 7-buffer (1M TRIS-HCL) and DCM. The aqueous layer was extracted more with DCM (2×10 mL). The combined organic layer was dried over MgSO4 and concentrated. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 80 g SiO2, DCM:EtOAc:MeOH=65%:32%:3%, Flow=65 mL/min). The solvent was removed in vacuo to afford the desired product as light yellow solid (160 mg). MS (ESI pos. ion) m/z: 443.8. Calcd exact mass for C15H15BrClN5O2S: 442.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.51 (s, 3H) 2.95 (s, 6H) 6.92 (br. s., 1H) 7.59 (s, 1H) 7.75 (s, 1H) 8.09 (s, 1H) 8.34 (s, 1H) 8.48 (s, 1H).

reactant | N-(5-(6-bromo-7-methylimidazo[1,2-a]pyridin-3-yl)-2-chloropyridin-3-yl)dimethylaminosulfonamide | BrC=1C(=CC=2N(C1)C(=CN2)C=2C=C(C(=NC2)Cl)NS(=O)(=O)N(C)C)C | C15H15BrClN5O2S
reactant | 6-bromo-3-iodo-7-methylimidazo[1,2-a]pyridine | 0.995 mmol, 0.335 g | BrC=1C(=CC=2N(C1)C(=CN2)I)C | C8H6BrIN2
reactant | sodium carbonate | 2.074 mmol, 1.037 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N′-(2-Chloro-5-(7-methyl-6-(4-pyridinyl)imidazo[1,2-a]pyridin-3-yl)-3-pyridinyl)-N,N-dimethylsulfamide | 160 mg | ClC1=NC=C(C=C1NS(=O)(=O)N(C)C)C1=CN=C2N1C=C(C(=C2)C)C2=CC=NC=C2 | C20H19ClN6O2S
